US09388161B2
Step 3. (S)-4-(1-acetyl-2-methyl-6-(1-(piperidin-4-yl)-1H-pyrazol-4-yl)-1,2,3,4-tetrahydroquinolin-5-yloxy)benzamide
Trifluoroacetic acid (3.5 mL) was added to a solution of tert-butyl 4-[4-[(2S)-1-acetyl-5-(4-carbamoylphenoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl]-1H-pyrazol-1-yl]piperidine-1-carboxylate (0.080 g, 0.14 mmol) in dichloromethane (30 mL). The reaction mixture stirred for 2 h at room temperature and was then concentrated under vacuum. The residue was dissolved in dichloromethane (50 mL), washed with saturated aqueous potassium carbonate solution (3×20 mL) and brine (20 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified by preparative-HPLC with the following conditions (Prep-HPLC-12): Column, XBridge Prep C18 OBD Column, 19×150 mm 5 um 13 nm; mobile phase: water (0.05% ammonium bicarbonate) and acetonitrile (20% to 95% acetonitrile in 18 min, flow rate: 20 mL/min); Detector, UV 254/220 nm. This afforded 4-[[(2S)-1-acetyl-2-methyl-6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1,2,3,4-tetrahydroquinolin-5-yl]oxy]benzamide (0.033 g, 50%) as an off-white solid.

reactant | Trifluoroacetic acid | 3.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-[4-[(2S)-1-acetyl-5-(4-carbamoylphenoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl]-1H-pyrazol-1-yl]piperidine-1-carboxylate | 0.14 mmol, 0.080 g | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC1=CC=C(C=C1)C(N)=O)C | C32H39N5O5
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (S)-4-(1-acetyl-2-methyl-6-(1-(piperidin-4-yl)-1H-pyrazol-4-yl)-1,2,3,4-tetrahydroquinolin-5-yloxy)benzamide | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCNCC1)OC1=CC=C(C(=O)N)C=C1)C | C27H31N5O3
